US05006159
2-(1-(Ethoxyimino)propyl)-3-hydroxy-5-(4-(4-(methylsulfonyl)phenoxy)phenyl)-cyclohex-2-en-1-one
A solution of 1.6 g (3.9 mmol) of 2-propionyl-3-hydroxy-5-(4-(4-(methylsulfonyl)phenoxy)phenyl)-cyclohex-2-en-1-one in 10 mL of methylene chloride and 10 mL of absolute ethanol, at room temperature was treated with 0.50 g (5.2 mmol)of ethoxyamine hydrochloride and 0.40 g (4.9 mmol) of anhydrous sodium acetate. After stirring under a nitrogen atmosphere for 16 hours, the mixture was poured into 100 mL of water and extracted twice with 20 mL portions of methylene chloride. The combined extracts were dried over MgSO4, filtered and passed through a short column of silica gel. Evaporation of the solvent left the product as a solid residue which was recrystallized from a mixture of diethyl ether and methylene chloride to yield 1.5 g (84 percent of theoretical) the above named product as a white solid melting at 155°-157° C. 1H NMR (CDCl3): δ1.10-1.48 (m, 6H, both --CH2CH3 's), 2.57-3.62 (m includes s at 3.03 for CH3SO2 --, 10H), 4.12 (q, J=7 Hz, 2H, --OCH2), 6.95-7.45 (m, 6H, aromatics), 7.90 (d, J=7 Hz, 2H, aromatics), 15.0 (very broad s, enol H) (Compound 4).

reactant | 2-propionyl-3-hydroxy-5-(4-(4-(methylsulfonyl)phenoxy)phenyl)-cyclohex-2-en-1-one | 3.9 mmol, 1.6 g | C(CC)(=O)C=1C(CC(CC1O)C1=CC=C(C=C1)OC1=CC=C(C=C1)S(=O)(=O)C)=O | C22H22O6S
reactant | ethoxyamine hydrochloride | 5.2 mmol, 0.50 g | Cl.C(C)ON
reactant | sodium acetate | 4.9 mmol, 0.40 g | C(C)(=O)[O-].[Na+]
reactant | water | 100 mL | O | H2O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-(1-(Ethoxyimino)propyl)-3-hydroxy-5-(4-(4-(methylsulfonyl)phenoxy)phenyl)-cyclohex-2-en-1-one | C(C)ON=C(CC)C=1C(CC(CC1O)C1=CC=C(C=C1)OC1=CC=C(C=C1)S(=O)(=O)C)=O | C24H27NO6S
